US07538112B2
Step 1: 2-(3-Chloro-4-fluorobenzyl)-10-hydroxy-4-(2,5-dimethyl-1H-pyrrol-yl)-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione
A mixture of 4-amino-2-(3-chloro-4-fluorobenzyl)-10-methoxy-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione (100 mg, 246 μmol), hexan-2,5-dione (34 mg, 296 μmol), and toluenesulfonic acid (catalytic amount) in toluene (2 mL) was heated in a sealed tube in an oil bath at 120° C. for one hour. The product mixture was concentrated under vacuum. The residue was partitioned between dichloromethane and aqueous sodium bicarbonate. The organic extract was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with a 0-30% methanol in ethyl acetate gradient. Collection and concentration of appropriate fractions provided the title compound.

reactant | 4-amino-2-(3-chloro-4-fluorobenzyl)-10-methoxy-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | 246 μmol, 100 mg | NC1=NN(C(C2=C1N1C(=C2OC)C(N(CC1)C)=O)=O)CC1=CC(=C(C=C1)F)Cl | C18H17ClFN5O3
reactant | hexan-2,5-dione | 296 μmol, 34 mg | CC(CCC(C)=O)=O | C6H10O2
reactant | toluenesulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Chloro-4-fluorobenzyl)-10-hydroxy-4-(2,5-dimethyl-1H-pyrrol-yl)-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | ClC=1C=C(CN2N=C(C3=C(C2=O)C(=C2N3CCN(C2=O)C)O)N2C(=CC=C2C)C)C=CC1F | C23H21ClFN5O3
